US04886814
(a) N-(4-Hydroxyphenyl-acetyl)-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine
3.16 g (20 mmol) of 2-Hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine are dissolved in 80 ml of absolute tetrahydrofuran and, successively, 3.84 g (20 mmol) of 4-hydroxy-phenylacetic acid, 6.3 g (24 mmol) of triphenylphosphine, 5.6 ml (40 mmol) of triethylamine and 2 ml (20 mmol) of carbon tetrachloride are added. After stirring overnight, the mixture is concentrated, the residue is taken up in 2N hydrochloric acid and the solution is extracted three times with methylene chloride. The aqueous phase is then adjusted to pH 7 with 2N sodium hydroxide solution and evaporated to dryness. The residue from evaporation is extracted by boiling several times with a mixture of chloroform/methanol (1:1). The extracts are concentrated, and the residue is purified on a silica gel column using ethyl acetate/methanol=50:1 as eluant.

reactant | 2-Hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | 20 mmol, 3.16 g | OC(CN)C=1N=C(SC1)C | C6H10N2OS
reactant | 4-hydroxy-phenylacetic acid | 20 mmol, 3.84 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | triphenylphosphine | 24 mmol, 6.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 40 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 20 mmol, 2 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | N-(4-Hydroxyphenyl-acetyl)-2-hydroxy-2-(2-methylthiazol-4-yl)ethanamine | OC1=CC=C(C=C1)CC(=O)NCC(C=1N=C(SC1)C)O | C14H16N2O3S
